US06613848B1
To a one liter four-inlet flask equipped with a temperature controller, a reflux condenser, a nitrogen feed and a mechanical stirrer, 2 moles (188 g) phenol and 500 ml N,N-dimethyl acetamide (DMAc) were added. The mixture was heated to 70° C. and then stirred. The mixture was heated to a temperature of 90° C. and the stirring was continued until phenol was dissolved completely. To this solution was added slowly 1.5 mole (230 g) phosphoryl chloride (POCl3) within two hours. The evolution of HCl gas was detected immediately. The temperature was increased to 135-138° C. and maintained at the reflux temperature for 12 hours after the addition of POCl3 was completed. HCl evolution subsided. The mixture was then cooled to room temperature and purified with dichloromethane to yield liquid diphenoxy phosphoryl chloride [DPOC; (II′)]. Yield, 96%. Anal. Calcd. for C12H10PO3Cl: C, 53.53; H, 3.72; O, 17.84; P, 11.52; Cl, 13.28. Found: C, 53.49; H, 3.70; O, 17.64; P, 11.64; Cl, 13.53. EIMS, m/z: 251 (90. M+).

reactant | phenol | 2 moles, 188 g | C1(=CC=CC=C1)O | C6H6O
reactant | phosphoryl chloride | 1.5 mole, 230 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | HCl | Cl | ClH
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethyl acetamide | 500 ml | CN(C(C)=O)C | C4H9NO
product | DPOC | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)Cl | C12H10ClO3P
